US07511050B2
Step A: 6-(4-methoxybenzyl)-3-methyl-7-(methylthio)-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one
A mixture of 7-bromo-6-(4-methoxybenzyl)-3-methyl-9-pentyl-6,9-dihydro-5h-[1,2,4]triazolo[4,3-a]purin-5-one (271 mg, 0.6 mmol) and sodium methyl sulfide (45.5 mg, 0.65 mmol) in dimethoxyethane (13.4 ml, 129 mmol) was refluxed for 2 h. The reaction was quenched with water. The solid formed was filtered and dried to yield the desired product (200 mg, 79.5%). LCMS calculated for C21H27N6O2S (M+H): 427.2; found 427.2.

reactant | 7-bromo-6-(4-methoxybenzyl)-3-methyl-9-pentyl-6,9-dihydro-5h-[1,2,4]triazolo[4,3-a]purin-5-one | 0.6 mmol, 271 mg | BrC1=NC=2N(C=3N(C(C2N1CC1=CC=C(C=C1)OC)=O)C(=NN3)C)CCCCC | C20H23BrN6O2
reactant | sodium methyl sulfide | 0.65 mmol, 45.5 mg | CSC.[Na]
reactant | dimethoxyethane | 129 mmol, 13.4 ml | C(OC)COC | C4H10O2
product | 6-(4-methoxybenzyl)-3-methyl-7-(methylthio)-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one | 200 mg, 79.5% | COC1=CC=C(CN2C(=NC=3N(C=4N(C(C23)=O)C(=NN4)C)CCCCC)SC)C=C1 | C21H26N6O2S
